US07071201B2
Example 48: Synthesis of 1-{1-[2-(4-methoxyphenylsulfonylamino)ethyl]piperidin-4-yl}indoline
1-[1-(2-Aminoethyl)piperidin-4-yl]indoline (113 mg) was dissolved in chloroform (3 ml). Under ice cooling, 4-methoxybenzenesulfonyl chloride (95 mg) was added thereto and the resultant mixture was stirred at room temperature overnight. After adding water, the reaction solution was extracted with chloroform. The organic layer was washed with brine and dried over magnesium sulfate. After evaporating the solvent, the resulting residue (80 mg) was purified by NH-silica gel column chromatography (methanol/methylene chloride system) to give the title compound (45 mg) as an oil.

reactant | 1-[1-(2-Aminoethyl)piperidin-4-yl]indoline | 113 mg | NCCN1CCC(CC1)N1CCC2=CC=CC=C12 | C15H23N3
reactant | 4-methoxybenzenesulfonyl chloride | 95 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | water | O | H2O
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-{1-[2-(4-methoxyphenylsulfonylamino)ethyl]piperidin-4-yl}indoline | 45 mg | COC1=CC=C(C=C1)S(=O)(=O)NCCN1CCC(CC1)N1CCC2=CC=CC=C12 | C22H29N3O3S
